US08802679B2
Benzyl 4-phenylpiperazine-1-carboxylate (2.1 g) was dissolved in DMF (80 ml), and N-bromosuccinimide (1.4 g) was added thereto, followed by stirring at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure and subjected to liquid separation by the addition of CHCl3 and a saturated aqueous sodium hydrogen carbonate solution. The organic layer was separated and dried over Na2SO4, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/EtOAc) to obtain benzyl 4-(4-bromophenyl)piperazine-1-carboxylate (2.3 g).

reactant | Benzyl 4-phenylpiperazine-1-carboxylate | 2.1 g | C1(=CC=CC=C1)N1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H20N2O2
reactant | N-bromosuccinimide | 1.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | benzyl 4-(4-bromophenyl)piperazine-1-carboxylate | 2.3 g | BrC1=CC=C(C=C1)N1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H19BrN2O2
